US08633200B2
Methyl 2-(2-(3-chlorophenyl)-7-hydroxy-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate
To a solution of 3-(3-chlorophenyl)-1H-pyrazol-5-amine (23 g, 119 mmol), dimethyl 2-acetylsuccinate (22.35 g, 119 mmol) in o-Xylene (200 mL) was added p-toluenesulfonic acid monohydrate (100 mg, 0.526 mmol). The reaction mixture was heated at reflux under a Dean-Stark trap for 2 h. The solid was filtered and washed with hexanes to afford (39 g, 99%) of the title compound. 1H NMR (500 MHz, METHANOL-d4) δ 8.14-7.95 (m, 1H), 7.93-7.79 (m, 1H), 7.51-7.27 (m, 2H), 6.62-6.35 (m, 1H), 3.72 (s, 3H), 3.67 (s, 2H), 2.39 (s, 3H).

reactant | 3-(3-chlorophenyl)-1H-pyrazol-5-amine | 119 mmol, 23 g | ClC=1C=C(C=CC1)C1=NNC(=C1)N | C9H8ClN3
reactant | dimethyl 2-acetylsuccinate | 119 mmol, 22.35 g | C(C)(=O)C(C(=O)OC)CC(=O)OC | C8H12O5
solvent | o-Xylene | 200 mL | CC=1C=CC=CC1C | C8H10
catalyst | p-toluenesulfonic acid monohydrate | 0.526 mmol, 100 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | Methyl 2-(2-(3-chlorophenyl)-7-hydroxy-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 39 g, 99% | ClC=1C=C(C=CC1)C1=NN2C(N=C(C(=C2O)CC(=O)OC)C)=C1 | C16H14ClN3O3
